US07737166B2
7-[(3S)-3-(Dimethylamino)-1-pyrrolidinyl]-2-(3-hydroxy-3-methylazetidin-1-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#99)
7-Fluoro-2-(3-hydroxy-3-methylazetidin-1-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-193) (230 mg, 0.68 mmol) was dissolved in DMSO (5 ml), then triethylamine (195 μl, 1.36 mmol) and (3S)-3-(dimethylamino)pyrrolidine (181 μl, 1.43 mmol) were added, followed by stirring at 150° C. for 4 hours. After cooling, concentration under reduced pressure, dilution with ethyl acetate and washing with water, the organic layer was dried over anhydrous magnesium sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with chloroform/methanol (10:1, v/v) gave the entitled compound (32 mg, 11%) as a white solid.

reactant | 7-Fluoro-2-(3-hydroxy-3-methylazetidin-1-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.68 mmol, 230 mg | FC=1C(=C(C(=C2N=C(OC21)N2CC(C2)(C)O)C#N)C)C2=CC=CC=C2 | C19H16FN3O2
reactant | triethylamine | 1.36 mmol, 195 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 1.43 mmol, 181 μl | CN([C@@H]1CNCC1)C | C6H14N2
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 7-[(3S)-3-(Dimethylamino)-1-pyrrolidinyl]-2-(3-hydroxy-3-methylazetidin-1-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 32 mg, 11% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)N2CC(C2)(C)O)C#N)C)C2=CC=CC=C2)C | C25H29N5O2
